US06518303B2
To a solution of N,N-dibenzyl-4-[2-(4-chlorophenoxy)acetyl]benzenesulfonamide (11.7 g, 23 mmoles) in acetic acid(105 ml), polyphosphoric acid (75 g) was added and the resulting solution was heated at 140° C. for 5 hours. After cooling, the reaction mixture was poured into ice-water, extracted with ethyl acetate (3×150 ml), and the organic solution was dried (Na2SO4). The solvent was removed under reduced pressure and the resulting oil was solved in H2SO4 (33 ml). The mixture was stirred at room temperature for 15 minutes, and poured into ice-water. The solid was filtered off and purified by column chromatography silica gel and ethyl acetate/methylene chloride/acetic acid (78:10:1) as eluent. 4-[3-(4-chlorophenoxy)-6-methyl-4-oxo-4H-pyran-2-yl]benzenesulfonamide (0.28 g) was obtained. m.p. 221° C. (Compound 57 in Table 4).

reactant | N,N-dibenzyl-4-[2-(4-chlorophenoxy)acetyl]benzenesulfonamide | 23 mmoles, 11.7 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(COC1=CC=C(C=C1)Cl)=O)CC1=CC=CC=C1 | C28H24ClNO4S
solvent | acetic acid | 105 ml | C(C)(=O)O | C2H4O2
product | 4-[3-(4-chlorophenoxy)-6-methyl-4-oxo-4H-pyran-2-yl]benzenesulfonamide | 0.28 g | ClC1=CC=C(OC2=C(OC(=CC2=O)C)C2=CC=C(C=C2)S(=O)(=O)N)C=C1 | C18H14ClNO5S
